US07208140B2
a) 2,4,6-Triiodo-5-{methyl[2-(2,2,2-trifluoroacetylamino)-acetyl]amino}-isophthalic acid dichloride
14.5 ml (200 mmol) of thionyl chloride is added in drops at 0° C. within 1 hour to a solution of 34.2 g (200 mmol) of glycine trifluoroacetate in 200 ml of dimethylacetamide. Then, 24.4 g (40 mmol) of 5-amino-2,4,6-triiodoisophthalic acid dichloride (EP 0033426, Sovak, 1/80 US) is added at 0° C., and it is stirred for 4 days at room temperature. The reaction mixture is poured into 5 liters of ice water, and the solid that accumulates is filtered off. For further purification, the filter residue is dissolved in 1000 ml of ethyl acetate, shaken out twice with saturated sodium bicarbonate solution, the organic phase is dried on sodium sulfate, and the solvent is concentrated by evaporation in a vacuum.

reactant | thionyl chloride | 200 mmol, 14.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | glycine trifluoroacetate | 200 mmol, 34.2 g | FC(C(=O)O)(F)F.NCC(=O)O
reactant | 5-amino-2,4,6-triiodoisophthalic acid dichloride | 40 mmol, 24.4 g | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C8H2Cl2I3NO2
reactant | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
product | 2,4,6-Triiodo-5-{methyl[2-(2,2,2-trifluoroacetylamino)-acetyl]amino}-isophthalic acid dichloride | IC1=C(C(=O)Cl)C(=C(C(=C1C(=O)Cl)I)N(C(CNC(C(F)(F)F)=O)=O)C)I | C13H6Cl2F3I3N2O4
